US08008322B2
1-(2-Fluoro-5-methylphenyl)-3-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-phenyl]urea is coupled, by Suzuki reaction, with 4-bromo-1H-pyrazolo[4,3-c]pyrid-3-ylamine according to a protocol similar to that for the preparation of Example 3. A yellow powder of 1-[4-(3-amino-1H-pyrazolo[3,4-b]pyrid-4-yl)phenyl]-3-(2-fluoro-5-methylphenyl)urea is obtained, the characteristics of which are as follows:

reactant | 1-(2-Fluoro-5-methylphenyl)-3-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-phenyl]urea | FC1=C(C=C(C=C1)C)NC(=O)NC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C20H24BFN2O3
reactant | 4-bromo-1H-pyrazolo[4,3-c]pyrid-3-ylamine | BrC1=NC=CC2=C1C(=NN2)N | C6H5BrN4
product | 1-[4-(3-amino-1H-pyrazolo[3,4-b]pyrid-4-yl)phenyl]-3-(2-fluoro-5-methylphenyl)urea | NC1=NNC2=NC=CC(=C21)C2=CC=C(C=C2)NC(=O)NC2=C(C=CC(=C2)C)F | C20H17FN6O
